US09303040B2
To a solution of (R)-tert-butyl 3-(4-chlorophenyl)-1-(4-(5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate (30 mg, 0.06 mmol) in CH2Cl2 (10 mL) was added HCl (4M in dioxane, 2 mL). The mixture was stirred at room temperature for 4 hours. The solvent was removed to afford (R)-2-amino-3-(4-chlorophenyl)-1-(4-(5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride (30 mg, 99%). MS (APCI+) [M+H]+ 405.

reactant | (R)-tert-butyl 3-(4-chlorophenyl)-1-(4-(5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)-1-oxopropan-2-ylcarbamate | 0.06 mmol, 30 mg | ClC1=CC=C(C=C1)C[C@H](C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CSC2)NC(OC(C)(C)C)=O | C24H30ClN5O3S
reactant | HCl | 4M, 2 mL | Cl | ClH
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-amino-3-(4-chlorophenyl)-1-(4-(5,7-dihydrothieno[3,4-d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride | 30 mg, 99% | Cl.Cl.N[C@@H](C(=O)N1CCN(CC1)C=1C2=C(N=CN1)CSC2)CC2=CC=C(C=C2)Cl | InChI=1S/C19H22ClN5OS.2ClH/c20-14-3-1-13(2-4-14)9-16(21)19(26)25-7-5-24(6-8-25)18-15-10-27-11-17(15)22-12-23-18;;/h1-4,12,16H,5-11,21H2;2*1H/t16-;;/m1../s1
